US07951956B2
N,N-Dimethylacetamide (5 ml) was heated to 130° C., and 3,4-diaminobenzophenone (150 mg, 0.71 mol) and sodium hydrogensulfite (89 mg, 0.85 mol) were added and stirred for 5 minutes. 2-Formyl-pyrrole (81 mg, 0.85 mol) was added and stirred at 130° C. for 1.5 hours. The reaction mixture was allowed to cool to room temperature with stirring, and after addition of water to reaction mixture, precipitate was collected by filtration to afford 5-benzoyl-2-(pyrrol-2-yl)-benzimidazole (129 mg, 63%) as a pale yellow solid.

reactant | N,N-Dimethylacetamide | 5 ml | CN(C(C)=O)C | C4H9NO
reactant | 3,4-diaminobenzophenone | 0.71 mol, 150 mg | NC=1C=C(C(=O)C2=CC=CC=C2)C=CC1N | C13H12N2O
reactant | sodium hydrogensulfite | 0.85 mol, 89 mg | S(=O)(O)[O-].[Na+]
reactant | 2-Formyl-pyrrole | 0.85 mol, 81 mg | C(=O)C=1NC=CC1 | C5H5NO
solvent | water | O | H2O
product | 5-benzoyl-2-(pyrrol-2-yl)-benzimidazole | 129 mg, 63% | C(C1=CC=CC=C1)(=O)C1=CC2=C(N=C(N2)C=2NC=CC2)C=C1 | C18H13N3O
